US05731315
B. 5H-Thieno[3,2-c]pyridin-4-one
To a solution of 3-thiophene-2-yl-acrylic acid (7.39 g, 47.9 mmol) in 200 mL of acetone is added triethylamine (4.9 g, 47.9 mmol). The resulting solution is cooled to 0° C. and ethyl chloroformate (5.7 g, 52.8 mmol) is added dropwise. After 2 h, sodium azide (4.67 g, 71.9 mmol) in 25 mL of H2O is then added. The solution is stirred for 1.5 h at 0° C. After this time, the solution is poured into 300 mL of H2O. A white precipitate forms which is collected by filtration. The resulting solid is dried over P2O5 under vacuum. The solid is suspended in 20 mL of diphenyl ether. This solution is added dropwise to a solution of tributylamine (6.9 g, 37.4 mmol) in 200 ml of diphenyl ether at 190° C. After 2 h, the solution is cooled to ambient temperatures. The solution is diluted with 1000 mL of hexanes and is cooled to 0° C. The resulting solid is collected by filtration and the solid is washed with hexanes. The title compound (3.6 g, 23.8 mmol) is obtained as a white solid.

reactant | 3-thiophene-2-yl-acrylic acid | 47.9 mmol, 7.39 g | S1C(=CC=C1)C=CC(=O)O | C7H6O2S
reactant | triethylamine | 47.9 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 52.8 mmol, 5.7 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 71.9 mmol, 4.67 g | [N-]=[N+]=[N-].[Na+]
reactant | tributylamine | 37.4 mmol, 6.9 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | H2O | 25 mL | O | H2O
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | H2O | 300 mL | O | H2O
product | 5H-Thieno[3,2-c]pyridin-4-one | 23.8 mmol, 3.6 g | S1C=CC=2C(NC=CC21)=O | C7H5NOS
